Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Sulfasalazine / Lisinopril / Codeine
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female Spanishh speaking with a history of Type 2DM 
on insulin (Detemir BID and Glipizide BID and metformin) who 
presents with malaise x 5 days "not feeling herself" per her 
daughter. ___ any cough, fever, no nausea vomitting, 
abdominal pain. No dysuria. Her daughter notes that she is 
concerned that her mother ___ know how to take her meds at 
home (she lives alone) and she also takes ambien every day which 
makes her have MS changes and makes her forgetful. Daughter 
called EMS today after seeing her mother "not act herself" she 
was oriented but her house was messy which is not like her. EMS 
found her to have profound hyperglycemia in ED (Gluc 996), 
transferred to ___ for HHS on Insulin gtt.   

She denies chest pain, shortness of breath, nausea, vomiting, 
diarrhea, dysuria. No other localizing symptoms of infection.

In the ED, Tmax 98.2 HR ___, 110s-120s/40s-50s 96%RA. FSBG 
Crit High, Glucose on chem panel 996, Na 126 (144 corrected), K 
5.3, AG 14, BUN 36, Cr 1.9. Given Insulin 5 SQ then 10IV(bolus), 
then started on Insulin gtt, initially at 3u/hr, then increased 
to 5/hr. Received total of 3L NS. She was mentating well, and 
was able to ambulate to the bathroom on her own.

Also, in ED noted to have Guaiac positive stool (checked in 
setting of Hct 26, previous in our system was 36 9mo ago).  

 

On arrival to the MICU, she is no apparant distress, daughter 
says that her mental status is at her baseline. Pt feels hungry

 
Past Medical History:
DM2, HTN, Hyperlipidemia, Depression, Anxiety, Iron Deficiency 
Anemia, GERD, Chronic Back Pain, Insomnia.
Tongue cancer, sees specialist at ___, chronic anemia (per pt 
she has had since she was a little girl, h/o stomach ulcers 
years ago.

 
Social History:
___
Family History:
She had brother with lung CA, daughter with endometrial cancer
 
Physical Exam:
On admission:
VS: Please see Metavision
General: Well appearing female in no acute distress
HEENT: Mucous membs moist
Neck: JVP nonelevated
CV:  Regular Rate and Rhythm, no murmurs/gallops appreciated
Lungs: Crackles at the bases
Abdomen: Soft, nontender, normoactive bowel sounds
GU: Ulcer about 2cm left labia majora, appears to be adhesions, 
labia minor are very small and not seen very well, very narrow 
vaginal entroitis, and it is difficult to see the urethra
Ext:  Warm/no peripheral edema, peripheral pulses 2+ ___
Neuro: strength ___ all ext

On discharge:

Physical Exam:  
Vitals: Tm 100.5 T: 98.4 BP: 114/43 HR 83  RR 20  99%RA
24hr Glucose Range: 60, 214, 368, 372, 196, 295, 185
General: Well appearing elderly/female in no acute distress  
CV: RRR no murmurs/gallops appreciated  
Lungs: clear bilaterally no w/r
Abdomen: Soft, nontender, normoactive bowel sounds  
Ext: Warm/no peripheral edema 
Neuro: alert, answering questions appropriately in ___ 

 
Pertinent Results:
On admission:
___ 03:15PM BLOOD WBC-4.4 RBC-3.63* Hgb-7.0*# Hct-26.8* 
MCV-74* MCH-19.4*# MCHC-26.2*# RDW-17.3* Plt ___
___ 03:15PM BLOOD Neuts-78* Lymphs-13* Monos-9 Eos-0 Baso-0
___ 03:15PM BLOOD ___ PTT-23.7* ___
___ 03:15PM BLOOD Glucose-996* UreaN-36* Creat-1.9* Na-126* 
K-5.3* Cl-88* HCO3-24 AnGap-19
___ 03:15PM BLOOD cTropnT-<0.01
___ 03:15PM BLOOD Calcium-10.5* Phos-5.5* Mg-2.2
___ 06:39PM BLOOD Comment-GREEN TOP
___ 03:26PM BLOOD Glucose-GREATER TH Na-130* K-5.2* Cl-88* 
calHCO3-27
___ 03:26PM BLOOD Hgb-7.8* calcHCT-23
___ 09:20PM BLOOD freeCa-1.16

Microbiology:
BCx x2 (___): Pending

Imaging:
CXR PA/lateral (___): No acute cardiopulmonary process.

___ 05:40AM BLOOD WBC-6.9 RBC-3.45* Hgb-8.0* Hct-26.3* 
MCV-76* MCH-23.2* MCHC-30.3* RDW-23.0* Plt ___
___ 09:19AM BLOOD Neuts-64.5 ___ Monos-5.9 Eos-1.6 
Baso-0.2
___ 05:40AM BLOOD Plt ___
___ 05:40AM BLOOD Glucose-275* UreaN-26* Creat-1.3* Na-136 
K-4.6 Cl-101 HCO3-27 AnGap-13
___ 05:40AM BLOOD Calcium-8.9 Phos-4.8* Mg-1.6

SPEP and UPEP negative
 
Brief Hospital Course:
Ms. ___ is a ___ with type 2 diabetes mellitus who presents in 
a hyperosmolar, hyperglycemic state in the setting of poor 
medication compliance. 

# Type II diabetes, uncontrolled with hyperosmolarity/HHS - 
diagnosed by Serum Glucose > 600(996), HCO3 > 15(24), no 
ketonuria,no  ketonemia . This is most likely from med non 
compliance as daughter has worries about this and patient notes 
there are times she forgets to take her insulin. No signs of 
infection though she does have a labial ulcer but it is not 
erythematous or painful. She was intially on an insulin drip and 
was weaned off, given long acting insulin and her BG levels 
returned to the 100s. Her MS was at baseline by the time she 
reached the MICU. ___ was consulted for recommendations on 
control of her BG levels.  Her K was repleted. She received 4 L 
of NS in ER and ICU. At discharge glucose remained labile but 
was in the range of 150-300 the day prior to discharge. Insulin 
regimen was limited by the pateint's schedule (she often sleeps 
until ___ and does not eat until noon) and the fact that her 
family can only administer insulin early in the morning and in 
the evening. Given these limitations, she was discharged on a 
regimen of Lantus 38 units in the morning and ___ 30 units at 
dinner. She was advised to continue to check her blood sugar 4 
times daily. She has a follow up appointment scheduled in the 
___ on ___. 

# Elevated Lactate - 4.9 on arrival and went down to 1.9. Likely 
related to hypovolemia, and/ or metformin in setting of poor 
GFR. Lactate resolved

# Met Acidosis with AG: AG initially 19 (from lactate), improved 
with HHS rx as above

# Microcytic Anemia with low MCV elev RDW. Differential includes 
iron deficiency (guaiac pos brown stool, h.o ulcer in the past 
per daughter though not ___ in records) vs thallasemia 
(per pt she has been anemic all her life).  Also on differential 
is MM in setting of renal failure. SPEP and UPEP were checked 
and were negative. Labs showed more of iron deficiency picture 
though it is possible she also has thallasemia. In setting of 
guaiac pos brown stool, history of angioectasisas seen on ___ 
and ___ ulcers pt should follow up with GI. H. pylori testing 
was positive, and patient should discuss with PCP and GI in 
follow up next week whether to treat for this.

# Acute on chronic kidney disease: Initial Cr 1.9, likely due to 
hypovolemia in the setting of hyperglycemia. Improved to 1.3 on 
discharge.

#Urinary tract infection:
Complaints of urinary frequency- UA was positive and culture was 
positive for pan sensitive E. Coli. She was treated with oral 
ciprofloxacin and will complete a 7 day course. Of note, she did 
have a low grade fever the day prior to discharge. She had no 
new symptoms of infection and WBC count was not elevated 
therefore no further infectious work up was pursued.

# Gyn: pt with labia majora ulcer and vaginal atrophy possible 
lichen sclerosis atrophicus. Could not insert foley because 
entroitus was so narrowed. Started on topical steroids and 
estrogen for atrophic vaginitis v. lichen. Will need gyn f/u.

CHRONIC ISSUES
#HTN:
continued hctz, losartan, propanolol

#Depression: continued buspirone and paroxitene

Transitional issues:
#Anemia
Consistent with iron deficiency- started on PO Iron but needs 
outpatient evaluation with Colonoscopy/EGD. Also H. Pylori 
antigen positive. Treatment not started in house.
#Vaginal atrophy
Needs GYN follow up

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Hydrocortisone Cream 2.5% 1 Appl TP 3X/WEEK (___) 
3. BusPIRone 10 mg PO TID 
4. Zolpidem Tartrate 10 mg PO HS 
5. Fluconazole 150 mg PO BID 
6. Clotrimazole Cream 1 Appl TP DAILY 
7. Propranolol 20 mg PO BID 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
9. Amlodipine 10 mg PO DAILY 
10. Atorvastatin 20 mg PO DAILY 
11. Detemir 30 Units Breakfast
Detemir 30 Units Bedtime
12. Ferrous Sulfate 325 mg PO DAILY 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q6H:PRN 
pain 
15. Omeprazole 40 mg PO DAILY 
16. Paroxetine 40 mg PO DAILY 
17. GlipiZIDE 10 mg PO BID 
18. Hydrochlorothiazide 25 mg PO DAILY 
19. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 20 mg PO DAILY 
2. BusPIRone 10 mg PO TID 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 
7. Paroxetine 40 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. Cyanocobalamin 1000 mcg PO DAILY 
10. Amlodipine 10 mg PO DAILY 
11. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q6H:PRN 
pain 
12. Hydrocortisone Cream 2.5% 1 Appl TP 3X/WEEK (___) 
13. Omeprazole 40 mg PO DAILY 
14. Propranolol 20 mg PO BID 
15. Docusate Sodium (Liquid) 100 mg PO BID 
You can buy this over the counter if needed. 
16. Estrogens Conjugated 1 gm VG DAILY Duration: 3 Weeks 
17. Clotrimazole Cream 1 Appl TP DAILY 
18. Glargine 38 Units Breakfast
Humalog ___ 30 Units Dinner
RX *insulin lispro protam & lispro [Humalog Mix ___ KwikPen] 
100 unit/mL (75-25) ___ Units before dinner Disp #*1 
Box Refills:*3
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) ___ Units before Breakfast Disp #*1 Box Refills:*3
19. Ciprofloxacin HCl 500 mg PO Q12H 
Last day ___ 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*5 Tablet Refills:*0
20. linagliptin *NF* 5 mg Oral daily 
RX *linagliptin [Tradjenta] 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diabetes mellitus, type II, poorly controlled with complications
Acute renal failure
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted due to dangerously high blood sugars. You 
required a continuous infusion of insulin when your first 
arrived. This was changed back to your usual insulin and the 
dose was adjusted with the help of the ___ Diabetes 
specialists. 

You should continue to follow a diabetic diet. You need to check 
your sugars in the morning when you wake up and before every 
meal.

This is very important to regulate your sugars so you do not 
need to go to the ICU again. You will also need to take insulin 
twice daily. 

Stop taking Glipizide, Determir

Start Linagliptin 5mg daily for diabetes
Start Lantus (Glargine) 38 units in the morning and ___ 30 
units in the evening
Start Ciprofloxacin 500mg twice daily- last dose is ___
 
Followup Instructions:
___